Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Valium / Penicillins / Omeprazole Sodium / Lisinopril 
/ mango / papaya
 
Attending: ___
 
Chief Complaint:
Clogged J-tube
 
Major Surgical or Invasive Procedure:
___ Fluro for J-tube replacement 
___ Paracentesis 

 
History of Present Illness:
Ms. ___ is a ___ with a past medical history notable for HCV 
(genotype 1a) and EtOH cirrhosis (Child's class B) c/b ascites, 
esophageal varices, and hepatic encephalopathy, and hx 
polysubstance abuse, who was recently admitted from ___ for 
abdominal pain post-paracentesis and had a NJ tube placed during 
that admission, presenting with a clogged J-tube.

Patient was asymptomatic and had no acute complaints in the ED. 

 
Past Medical History:
HCV - genotype 1a decompensated with h/o ascites; liver biopsy 
in ___ showed stage ___ fibrosis 
EtOH cirrhosis (Child's Class B) c/b ascites, esophageal 
varices, HE
Hypertension
Hyperlipidemia
COPD
Alcohol abuse
Depression
Cocaine abuse
Tobacco abuse
Breast pain
Abdominal pain
Cervical spondylosis
L subclavian stenosis
Peripheral vascular disease
GERD s/p lap fundoplication and hiatal hernia repair ___
s/p cholecystectomy
s/p R inguinal hernia repair 

 
Social History:
___
Family History:
Mother: DM, CAD (COD), and was in a wheelchair for neuropathy.
Father: ___, rectal CA (COD)
Sister: mental illness 
___: 1 brother neonatal death, 1 brother death at 3 months, 
1 brother sudden death in ___.

 
Physical Exam:
ADMISSION EXAM:
===============
VS: T 98.1 BP 124/65 HR 72 RR 18 O2 97% RA 
GENERAL: Chronically ill appearing, in NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, MMM
NECK: Supple, no LAD, no JVD  
HEART: RRR, S1/S2, no murmurs, gallops, or rubs   
LUNGS: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: Soft, distended, diffuse TTP in all quadrants, no 
rebound/guarding, 5cm reducible hernia above umbilicus 
EXTREMITIES: No cyanosis, clubbing, or edema  
SKIN: Warm and well perfused, no excoriations or lesions, no 
rashes
NEURO: A&Ox3, moving all 4 extremities with purpose, no 
asterixis 

DISCHARGE EXAM:
===============
VS: ___ 0704 Temp: 98.0 PO BP: 129/65 L Lying HR: 88 RR: 16
O2 sat: 95% O2 delivery: Ra 
GENERAL: Chronically ill appearing, sitting in bed, in NAD  
HEENT: AT/NC, EOMI, anicteric sclera, MMM, NJT bridled in place 
LUNGS: Breathing comfortably on RA without use of accessory mm
ABDOMEN: Soft, distended, diffuse TTP in all quadrants, no
rebound/guarding, 5cm reducible hernia above umbilicus 
EXTREMITIES: No cyanosis, clubbing, or edema  
SKIN: Warm and well perfused
NEURO: A&Ox3, moving all 4 extremities with purpose, no 
asterixis
 
Pertinent Results:
ADMISSION LABS
==============
___ 05:30PM   ___ PTT-40.2* ___
___ 05:30PM   PLT COUNT-75*
___ 05:30PM   NEUTS-76.2* LYMPHS-11.7* MONOS-10.6 EOS-1.1 
BASOS-0.2 IM ___ AbsNeut-3.52 AbsLymp-0.54* AbsMono-0.49 
AbsEos-0.05 AbsBaso-0.01
___ 05:30PM   WBC-4.6 RBC-2.90* HGB-8.6* HCT-27.7* MCV-96 
MCH-29.7 MCHC-31.0* RDW-17.5* RDWSD-61.1*
___ 05:30PM   ALBUMIN-3.5
___ 05:30PM   ALT(SGPT)-17 AST(SGOT)-31 ALK PHOS-108* TOT 
BILI-1.2
___ 05:30PM   GLUCOSE-105* UREA N-21* CREAT-0.7 SODIUM-139 
POTASSIUM-4.7 CHLORIDE-103 TOTAL CO2-25 ANION GAP-11

DISCHARGE LABS
===============
___ 05:16AM BLOOD WBC-5.3 RBC-2.62* Hgb-7.8* Hct-25.0* 
MCV-95 MCH-29.8 MCHC-31.2* RDW-17.0* RDWSD-59.4* Plt Ct-67*
___ 05:16AM BLOOD Plt Ct-67*
___ 05:16AM BLOOD ___ PTT-36.5 ___
___ 05:16AM BLOOD Glucose-139* UreaN-20 Creat-0.7 Na-137 
K-4.7 Cl-100 HCO3-23 AnGap-14
___ 05:16AM BLOOD ALT-15 AST-30 LD(LDH)-205 AlkPhos-115* 
TotBili-0.9
___ 05:16AM BLOOD Calcium-7.4* Phos-4.3 Mg-2.1

MICRO
=====
- None

IMAGING
=======
___ ___ TUBE
Retrograde migration of the enteric tube towards the stomach 
with the tip now pre-pyloric and bended tubing inside of the 
stomach.  Patient refuses 
manipulation of the tubing without sedation. 

___ ___ TUBE
Successful post-pyloric advancement of a Dobhoff feeding tube. 
The tube is 
ready to use. 

 
Brief Hospital Course:
SUMMARY STATEMENT:
===================
___ with PMH of HCV (genotype 1a) and EtOH cirrhosis (Child's 
class B, MELD 13 on admission) c/b ascites, esophageal varices, 
and hepatic encephalopathy, and hx polysubstance abuse, with 
recent admission from ___ for abdominal pain 
post-paracentesis with NJ tube placement, presenting with a 
clogged NJ-tube, s/p NJT and therapeutic paracentesis. 

ACTIVE ISSUES:
==============
# Clogged NJ-tube
Initially seen in the ED by ___, but refused NJ-tube 
repositioning without full sedation. Taken morning of ___ for 
NJ-tube replacement without complication. 

CHRONIC ISSUES:
===============
# EtOH cirrhosis (Child's Class B, MELD 13) c/b ascites, 
esophageal varices, and HE
No evidence of decompensation on admission. Continued home 
furosemide, lactulose, and rifaxamin. Underwent therapeutic 
paracentesis on ___ with 2.25L fluid removal.

# HCV (genotype 1a)
Continued home Epclusa (NF so patient brought in from home). 

# Chronic pain
Continued home APAP and morphine 

# Severe protein-calorie malnutrition 
NJT placed on last admission and replaced on ___. Continued home 
zinc and multivitamin. 

# COPD
Continued home fluticasone-salmeterol diskus, tiotropium, 
albuterol PRN 

# GERD
Continued home pantoprazole 40mg daily 

# HLD
Continued home simvastatin 20mg 

# Polysubstance abuse
Continued home folic acid, thiamine, and multivitamin 

# Depression
Continued home escitalopram

TRANSITIONAL ISSUES:
====================
[] Known L adnexal mass with elevated Ca-125, ensure continued 
follow-up with PCP
[] Ensure follow-up with palliative care for ongoing ___ 
discussions; appointment set for ___ 

# CODE: Presumed FULL
# CONTACT: ___ 
 Relationship: HCP/fianc 
 Phone number: ___ 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing 
2. Aspirin 81 mg PO DAILY 
3. Epclusa (sofosbuvir-velpatasvir) 400-100 mg oral Daily 
4. Escitalopram Oxalate 10 mg PO DAILY 
5. Fluticasone Propionate NASAL 1 SPRY NU BID 
6. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
7. FoLIC Acid 1 mg PO DAILY 
8. Furosemide 40 mg PO DAILY 
9. Lactulose 30 mL PO TID 
10. Multivitamins W/minerals 1 TAB PO DAILY 
11. Ondansetron ODT 4 mg PO Q8H:PRN nausea 
12. Pantoprazole 40 mg PO Q24H 
13. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
14. Rifaximin 550 mg PO BID 
15. Simethicone 40-80 mg PO QID:PRN gas 
16. Simvastatin 20 mg PO QPM 
17. Thiamine 100 mg PO DAILY 
18. Tiotropium Bromide 1 CAP IH DAILY 
19. Acetaminophen 650 mg PO Q8H:PRN Pain - Mild 
20. Lidocaine 5% Patch 1 PTCH TD QAM 
21. Morphine Sulfate ___ 15 mg PO Q4H:PRN Pain - Moderate 
22. HydrOXYzine 25 mg PO BID:PRN itch 
23. GuaiFENesin ER 600 mg PO Q12H 
24. Zinc Sulfate 220 mg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q8H:PRN Pain - Mild  
2.  Albuterol Inhaler 2 PUFF IH Q4H:PRN wheezing  
3.  Aspirin 81 mg PO DAILY  
4.  Epclusa (sofosbuvir-velpatasvir) 400-100 mg oral Daily  
5.  Escitalopram Oxalate 10 mg PO DAILY  
6.  Fluticasone Propionate NASAL 1 SPRY NU BID  
7.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
8.  FoLIC Acid 1 mg PO DAILY  
9.  Furosemide 40 mg PO DAILY  
10.  GuaiFENesin ER 600 mg PO Q12H  
11.  HydrOXYzine 25 mg PO BID:PRN itch  
12.  Lactulose 30 mL PO TID  
13.  Lidocaine 5% Patch 1 PTCH TD QAM  
14.  Morphine Sulfate ___ 15 mg PO Q4H:PRN Pain - Moderate  
15.  Multivitamins W/minerals 1 TAB PO DAILY  
16.  Ondansetron ODT 4 mg PO Q8H:PRN nausea  
17.  Pantoprazole 40 mg PO Q24H  
18.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
19.  Rifaximin 550 mg PO BID  
20.  Simethicone 40-80 mg PO QID:PRN gas  
21.  Simvastatin 20 mg PO QPM  
22.  Thiamine 100 mg PO DAILY  
23.  Tiotropium Bromide 1 CAP IH DAILY  
24.  Zinc Sulfate 220 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
- Clogged J-tube

Secondary diagnosis: 
- EtOH cirrhosis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

___ were admitted to the hospital because your NJ-tube was not 
working properly.

While ___ were here, the interventional radiologists replaced 
your NJ-tube. ___ also had a paracentesis to remove extra fluid 
from your stomach.

When ___ go home, ___ should continue taking all your 
medications, as prescribed. ___ should follow-up with your 
primary care doctor, ___, and the palliative care 
doctors. ___ should call your doctors ___ develop any 
worrisome symptoms, like abdominal pain or distension, fevers, 
chills, or trouble breathing! 

It was a privilege taking care of ___, and we wish ___ well.

Sincerely,
Your ___ Care Team 
 
Followup Instructions:
___